US08664263B2
Step 1: Method of Synthesizing 2-Iododibenzofuran
In a 500 mL three-neck flask was put a suspension of 8.4 g (50 mmol) of dibenzofuran, 6.2 g (25 mmol) of iodine, 5.7 g (25 mmol) of orthoperiodic acid, 150 mL of glacial acetic acid, 30 mL of water, and 500 μL of sulfuric acid, and the suspension was heated and stirred at 60° C. for 4.5 hours to cause a reaction.

reactant | dibenzofuran | 50 mmol, 8.4 g | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
reactant | iodine | 25 mmol, 6.2 g | II | I2
reactant | orthoperiodic acid | 25 mmol, 5.7 g | I(=O)(O)(O)(O)(O)O | H5IO6
reactant | sulfuric acid | 500 μL | S(O)(O)(=O)=O | H2O4S
solvent | water | 30 mL | O | H2O
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 2-Iododibenzofuran | IC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H7IO
